US04409229
A solution of 1'-acetyl-1,3-dihydro-3-phenylspiro[benzo(c)thiophene-1,4'-piperidine], Example 10, in tetrahydrofuran is treated carefully with a stirred suspension of lithium aluminum hydride in tetrahydrofuran to provide 1'-ethyl-1,3-dihydro-3-phenylspiro[benzo(c)thiophene-1,4'-piperidine].

reactant | 1'-acetyl-1,3-dihydro-3-phenylspiro[benzo(c)thiophene-1,4'-piperidine] | C(C)(=O)N1CCC2(CC1)SC(C1=C2C=CC=C1)C1=CC=CC=C1 | C20H21NOS
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1'-ethyl-1,3-dihydro-3-phenylspiro[benzo(c)thiophene-1,4'-piperidine] | C(C)N1CCC2(CC1)SC(C1=C2C=CC=C1)C1=CC=CC=C1 | C20H23NS
